US07692005B2
Step 3: 2-[2-Nitro-4-(4-nitro-benzoyl)-phenyl]-malonic acid diethyl ester
NaH, 60% dispersion in mineral oil, (1.27 g, 31.7 mmol) was washed with petroleum ether then suspended in anhydrous DMSO (30 mL). Diethyl malonate (4.85 mL, 31.7 mmol) was dissolved in 8 mL of anhydrous DMSO and added dropwise to the NaH suspension. The mixture was allowed to stir for 15 min at 100° C., during which time the reaction mixture became homogeneous. (4-Bromo-3-nitro-phenyl)-(-4-nitro-phenyl)-methanone (5.15 g, 14.4 mmol) was dissolved in anhydrous DMSO (15 mL) and subsequently added via syringe to the malonate solution. The mixture was allowed to stir at 100° C. for 2 h after which the reaction was cooled to room temperature and poured into water (˜300 mL). The mixture was extracted with EtOAc (3×300 mL) and dried over anhydrous Na2SO4. The organic layers were then concentrated in vacuo affording a crude black oil. The crude oil was then flashed through a plug of silica with 30% EtOAc/Hexanes. The solution was then concentrated in vacuo yielding a pale yellow solid that contained the desired product contaminated with excess diethyl malonate. The impure solid was washed with Hexanes, filtered and dried affording diethyl [2-nitro-4-(4-nitrobenzoyl)phenyl]malonate in 75% yield (4.64 g, 10.8 mmol).

reactant | Diethyl malonate | 31.7 mmol, 4.85 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | NaH | [H-].[Na+]
reactant | (4-Bromo-3-nitro-phenyl)-(-4-nitro-phenyl)-methanone | 14.4 mmol, 5.15 g | BrC1=C(C=C(C=C1)C(=O)C1=CC=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C13H7BrN2O5
reactant | malonate | C(CC(=O)[O-])(=O)[O-]
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | water | ˜300 mL | O | H2O
product | 2-[2-Nitro-4-(4-nitro-benzoyl)-phenyl]-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)C1=C(C=C(C=C1)C(C1=CC=C(C=C1)[N+](=O)[O-])=O)[N+](=O)[O-])=O | C20H18N2O9
